US07425631B2
Step B. Preparation of (7-cyano-chroman-4-yl)-methyl-carbamic acid tert-butyl ester
A mixture of (7-cyano-chroman-4-yl)-carbamic acid tert-butyl ester (769 mg, 2.81 mmol, 1.0 eq), NaH (Aldrich, 449 mg (60% by weight), 11.2 mmol, 4.0 eq) in DMF (15 mL) was stirred at RT for 3 h. Iodomethane (Aldrich, 1.99 g, 14.1 mmol, 5.0 eq) was added slowly. The resulting mixture was stirred at RT for 21 h. The reaction was quenched with saturated NH4Cl (40 mL) DMF was removed with a rotary evaporator at 70° C. The crude was diluted with H2O (100 mL), extracted with EtOAc (80 mL×4). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. Flash column chromatography (silica gel, 0-15% EtOAc-Hexane) afforded the title compound as an off-white solid. MS (ESI, pos. ion) m/z: 289 (M+1).

reactant | (7-cyano-chroman-4-yl)-carbamic acid tert-butyl ester | 2.81 mmol, 769 mg, 1.0 eq | C(C)(C)(C)OC(NC1CCOC2=CC(=CC=C12)C#N)=O | C15H18N2O3
reactant | NaH | 11.2 mmol, 449 mg, 4.0 eq | [H-].[Na+]
reactant | Iodomethane | 14.1 mmol, 1.99 g, 5.0 eq | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (7-cyano-chroman-4-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1CCOC2=CC(=CC=C12)C#N)=O | C16H20N2O3
